US09278950B2
Step 1. tert-Butyl methyl {(3R,4S,5S)-1-[3-({[3-{[(benzyloxy)carbonyl]amino}-7-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)quinolin-2-yl]carbonyl}amino)pyridin-4-yl]-5-methylpiperidine-3,4-diyl}biscarbamate
A vial was charged with 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,6-tetrahydropyridine (107 mg, 0.477 mmol), dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine-(2′-aminobiphenyl-2-yl)(chloro)palladium (1:1) (36 mg, 0.046 mmol), and K3PO4 (175 mg, 0.824 mmol). The vial was sealed with a septum and purged with nitrogen three times. A solution of tert-butyl methyl [(3R,4S,5S)-1-(3-{[(3-{[(benzyloxy)carbonyl]amino}-7-bromoquinolin-2-yl)carbonyl]amino}pyridin-4-yl)-5-methylpiperidine-3,4-diyl]biscarbamate (200 mg, 0.262 mmol) in 1,4-dioxane (2.0 mL) was added, followed by deoxygenated water (0.50 mL). The reaction mixture was heated at 60° C. for 2 h. The mixture was purified by preparative LCMS (pH=10 method; XBridge™ preparative C18 5 μm OBD™ column, 30×10 mm, 60 mL/min., eluting with a gradient of MeCN and water with 0.1% NH4OH) to give the sub-title compound as a yellow solid (40 mg, 19%). LCMS calc. for C42H51N8O7 (M+H)+: m/z=779.4. Found: 779.4.

reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,6-tetrahydropyridine | 0.477 mmol, 107 mg | CN1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C12H22BNO2
reactant | K3PO4 | 0.824 mmol, 175 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | tert-butyl methyl [(3R,4S,5S)-1-(3-{[(3-{[(benzyloxy)carbonyl]amino}-7-bromoquinolin-2-yl)carbonyl]amino}pyridin-4-yl)-5-methylpiperidine-3,4-diyl]biscarbamate | 0.262 mmol, 200 mg | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=CC=C2C1)Br)C(=O)NC=1C=NC=CC1N1C[C@H]([C@H]([C@H](C1)C)NC(OC)=O)NC(OC(C)(C)C)=O | C36H40BrN7O7
solvent | 1,4-dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
catalyst | dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine (2′-aminobiphenyl-2-yl)(chloro)palladium | 0.046 mmol, 36 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1.NC1=C(C=CC=C1)C1=C(C=CC=C1)[Pd]Cl
product | tert-Butyl methyl {(3R,4S,5S)-1-[3-({[3-{[(benzyloxy)carbonyl]amino}-7-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)quinolin-2-yl]carbonyl}amino)pyridin-4-yl]-5-methylpiperidine-3,4-diyl}biscarbamate | 40 mg, 19% | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=CC=C2C1)C=1CCN(CC1)C)C(=O)NC=1C=NC=CC1N1C[C@H]([C@H]([C@H](C1)C)NC(OC)=O)NC(OC(C)(C)C)=O | C42H50N8O7
